US09352049B2
To 5-(1-hydroxysilinan-1-yl)pentanoic acid (130 mg, 0.601 mmol) in ethyl acetate (5 mL), N,N′-dicyclohexylcarbodiimide (186 mg, 0.901 mmol) was added. The reaction was stirred under nitrogen at ambient temperature for 30 minutes. After this time, 4-nitrophenol (100 mg, 0.719 mmol) was added, and the reaction was stirred for 16 hours at ambient temperature. After this time, the reaction was filtered to remove any solids, the filter cake was washed with ethyl acetate, and the filtrate was concentrated under reduced pressure. The residue obtained was purified by silica gel column chromatography eluting with hexanes to 1:3 ethyl acetate/hexanes to afford 4-nitrophenyl 5-(1-hydroxysilinan-1-yl)pentanoate (106 mg, 52%) as a colorless oil. 1H NMR (500 MHz, CDCl3) δ 8.26 (dt, J=9.0, 2.5 Hz, 2H), 7.27 (dt, J=9.0, 2.5 Hz, 2H), 2.61 (t, J=7.5 Hz, 2H), 1.84-1.78 (m, 2H), 1.76-1.67 (m, 4H), 1.56-1.44 (m, 4H), 1.40-1.33 (m, 1H), 0.75-0.63 (m, 6H).

reactant | 5-(1-hydroxysilinan-1-yl)pentanoic acid | 0.601 mmol, 130 mg | O[Si]1(CCCCC1)CCCCC(=O)O | C10H20O3Si
reactant | N,N′-dicyclohexylcarbodiimide | 0.901 mmol, 186 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 4-nitrophenol | 0.719 mmol, 100 mg | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
product | 4-nitrophenyl 5-(1-hydroxysilinan-1-yl)pentanoate | 106 mg, 52% | O[Si]1(CCCCC1)CCCCC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C16H23NO5Si
